US07700623B2
To an acetic acid (80 mL) suspension of 10.0 g of N′-hydroxy-4-{3-[4-(3-hydroxypropyl)-1-piperidinyl]propoxy}benzamidine were added 5.31 mL of acetic anhydride and 0.50 g of 5% palladium-carbon at room temperature, which was stirred at room temperature under hydrogen atmosphere for 12 hours and 50 minutes. After filtering off insoluble matter, the solvent was distilled off under reduced pressure. To the resultant residue was added 6 mol/L hydrochloric acid, followed by distilling off the solvent under reduced pressure before purification using silica gel column chromatography (silica gel: ODS-A from YMC, eluent; water). The eluate was concentrated to about 100 mL under reduced pressure and then adjusted to pH 12 using a 5 mol/L sodium hydroxide aqueous solution. The precipitate was collected by filtration and washed with water to provide 8.43 g of 4-{3-[4-(3-hydroxypropyl)-1-piperidinyl]propoxy}benzamidine as white solid form.

reactant | N′-hydroxy-4-{3-[4-(3-hydroxypropyl)-1-piperidinyl]propoxy}benzamidine | 10.0 g | ON=C(C1=CC=C(C=C1)OCCCN1CCC(CC1)CCCO)N | C18H29N3O3
reactant | acetic anhydride | 5.31 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium-carbon | 0.50 g | [C].[Pd]
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 4-{3-[4-(3-hydroxypropyl)-1-piperidinyl]propoxy}benzamidine | 8.43 g | OCCCC1CCN(CC1)CCCOC1=CC=C(C(=N)N)C=C1 | C18H29N3O2
